US07345178B2
Preparation of 3-Chloromethyl-6-(2-nitro-phenyl)-imidazo[2,1-b]thiazole
To a stirred solution of [6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-methanol (1.0 g, 3.63 mmol) in anhydrous dichloromethane (15 ml) was slowly added thionyl chloride (2 ml, 7.5 eq). The solution turned homogenous, followed by development of a yellow precipitate. After 5 minutes, a catalytic amount of DMF (1 drop) was added and the mixture was stirred for 1 hour, concentrated to dryness, chased with CH2Cl2 (2×) then Ether (1×), and dried under reduced pressure. 1.53 g of yellow solid was obtained, and assumed to be quantitative yield. (MS, M++H=294.0)

reactant | [6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-methanol | 3.63 mmol, 1.0 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2SC=C(N2C1)CO | C12H9N3O3S
reactant | thionyl chloride | 2 ml, 7.5 eq | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 3-Chloromethyl-6-(2-nitro-phenyl)-imidazo[2,1-b]thiazole | 1.53 g, quantitative yield | ClCC=1N2C(SC1)=NC(=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C12H8ClN3O2S
